US03954438
7-Amino-6-chloro-1-ethyl-5-trifluoromethylbenzimidazole
6-Chloro-1-ethyl-7-nitro-5-trifluoromethylbenzimidazole (3.54g.; 0.012 mole; m.p. 126.5°-128°C.) was hydrogenated in the presence of platinum oxide catalyst in accordance with the procedure of Example IV. The product was obtained as a white crystalline solid (1.54g.; 48.9%) which, after recrystallization from a CCl4 --CHCl3 mixture, melts at 191.5°-193°C.

reactant | 6-Chloro-1-ethyl-7-nitro-5-trifluoromethylbenzimidazole | 0.012 mole, 3.54g | ClC=1C(=CC2=C(N(C=N2)CC)C1[N+](=O)[O-])C(F)(F)F | C10H7ClF3N3O2
catalyst | platinum oxide | [Pt]=O
product | 7-Amino-6-chloro-1-ethyl-5-trifluoromethylbenzimidazole | NC1=C(C(=CC2=C1N(C=N2)CC)C(F)(F)F)Cl | C10H9ClF3N3
